US04117130
Preparation of 6-(m-chlorophenyl)-1,2,4-triazolo[4,3-b]pyridazine
The procedure of Example 15 is repeated substituting an equimolecular amount of 3-chloro-6-(m-chlorophenyl)pyridazine for the 3-chloro-6-(p-chlorophenyl)pyridazine employed in that example. There is thus obtained the title compound in equally good yield; m.p. 175°-177° C.

reactant | 3-chloro-6-(m-chlorophenyl)pyridazine | ClC=1N=NC(=CC1)C1=CC(=CC=C1)Cl | C10H6Cl2N2
reactant | 3-chloro-6-(p-chlorophenyl)pyridazine | ClC=1N=NC(=CC1)C1=CC=C(C=C1)Cl | C10H6Cl2N2
product | 6-(m-chlorophenyl)-1,2,4-triazolo[4,3-b]pyridazine | ClC=1C=C(C=CC1)C=1C=CC=2N(N1)C=NN2 | C11H7ClN4
